** sch_path: /home/tim/gits/sg13cmos5l_ocd_chipalooza/dependencies/sg13cmos5l_ocd_ip__analog_switches/xschem/power_stage2.sch
.subckt power_stage2 enable IOVDD_IN IOVSS DVSS DVDD IOVDD_OUT
*.PININFO enable:I IOVDD_IN:I DVSS:I DVDD:I IOVSS:I IOVDD_OUT:O
XM14 IOVDD_OUT P_DRIVE IOVDD_IN IOVDD_IN sg13_hv_pmos w=10.0u l=0.4u ng=1 m=700
x2 net2 net1 P_DRIVE IOVDD_IN IOVSS gate_drive_large
x1 net1 enable DVDD DVSS sg13cmos5l_inv_4
x3 net2 net1 DVDD DVSS sg13cmos5l_inv_4
x4[1] DVDD DVSS sg13cmos5l_decap_4
x4[0] DVDD DVSS sg13cmos5l_decap_4
x9 enable DVDD DVSS sg13cmos5l_antennanp
.ends

* expanding   symbol:  gate_drive_large.sym # of pins=5
** sym_path: /home/tim/gits/sg13cmos5l_ocd_chipalooza/dependencies/sg13cmos5l_ocd_ip__analog_switches/xschem/gate_drive_large.sym
** sch_path: /home/tim/gits/sg13cmos5l_ocd_chipalooza/dependencies/sg13cmos5l_ocd_ip__analog_switches/xschem/gate_drive_large.sch
.subckt gate_drive_large in_n in_p out vdd vss
*.PININFO in_n:I in_p:I vdd:I vss:I out:O
XM1 net1 in_p vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=2
XM2 net1 S1_N vdd vdd sg13_hv_pmos w=1u l=0.5u ng=1 m=2
XM3 S1_N in_n vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=2
XM4 S1_N net1 vdd vdd sg13_hv_pmos w=1u l=0.5u ng=1 m=2
XM5 S2_N S1_N vdd vdd sg13_hv_pmos w=10u l=0.5u ng=1 m=2
XM6 S2_N S1_N vss vss sg13_hv_nmos w=5u l=0.5u ng=1 m=2
XM7 S3_N S2_N vdd vdd sg13_hv_pmos w=10u l=0.5u ng=1 m=6
XM8 S3_N S2_N vss vss sg13_hv_nmos w=5u l=0.5u ng=1 m=6
XM9 S4_N S3_N vdd vdd sg13_hv_pmos w=10u l=0.5u ng=1 m=20
XM10 S4_N S3_N vss vss sg13_hv_nmos w=5u l=0.5u ng=1 m=20
XM11 out S4_N vdd vdd sg13_hv_pmos w=10u l=0.5u ng=1 m=60
XM12 out S4_N vss vss sg13_hv_nmos w=5u l=0.5u ng=1 m=60
.ends

